US06960598B2
Trifluoromethanesulfonic acid 2-fluoro-5-(7-trifluoromethyl[1,8]naphthyridin-4-yl)phenyl ester (30.0 mg, 0.068 mmol) was coupled to 2-methoxyphenyl-boronic acid (13.5 mg, 0.089 mmol) as described in Example 35 part c), affording 5-(6-fluoro-2′-methoxybiphenyl-3-yl)-2-trifluoromethyl[1,8]-naphthyridine (14.5 mg, 53%). δH (360 MHz, CDCl3) 3.86 (3H, s), 7.03-7.09 (2H, m), 7.32-7.48 (4H, m), 7.55 (1H, dd, J 2.5 and 6.7), 7.60 (1H, d, J 4.6), 7.83 (1H, d, J 8.4), 8.66 (1H, d, J 8.4), 9.27 (1H, d, J 4.6). m/z (ES+) 399 [MH]+.

reactant | Trifluoromethanesulfonic acid 2-fluoro-5-(7-trifluoromethyl[1,8]naphthyridin-4-yl)phenyl ester | 0.068 mmol, 30.0 mg | FC1=C(C=C(C=C1)C1=CC=NC2=NC(=CC=C12)C(F)(F)F)OS(=O)(=O)C(F)(F)F | C16H7F7N2O3S
reactant | 2-methoxyphenyl-boronic acid | 0.089 mmol, 13.5 mg | COC1=C(C=CC=C1)B(O)O | C7H9BO3
product | 5-(6-fluoro-2′-methoxybiphenyl-3-yl)-2-trifluoromethyl[1,8]-naphthyridine | 14.5 mg, 53% | FC1=CC=C(C=C1C1=C(C=CC=C1)OC)C1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C22H14F4N2O
